US03966931
6-(7-Chloroquinol-2-yl)-5-hydroxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole (9.0 g.) is added over the course of half an hour, at 15°-20°C, to a suspension of sodium hydride (1.35 g.) in anhydrous tetrahydrofuran (250 cc.). The reaction mixture is diluted with anhydrous dimethylformamide (50 cc.). 6-(7-Chloroquinol-2-yl)5-hydroxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole (a further 9.0 g.) is added over the course of half an hour, at 15°C, and then 1-chlorocarbonyl-4-methylpiperazine (25.0 g.) dissolved in anhydrous tetrahydrofuran (150 cc.) is added at 5°C. The reaction mixture is stirred for 4 hours at 5°C. After evaporating the tetrahydrofuran under reduced pressure (20 mm.Hg), the reaction mixture is treated with water (500 cc.). The gummy precipitate which has appeared is filtered off and taken up in an ice-cold 2N aqueous solution of methanesulphonic acid (350 cc.). The ice-cold aqueous acid solution is filtered and then rendered alkaline by adding 10N sodium hydroxide solution. The oil which separates out is extracted three times with methylene chloride (total 600 cc.). The organic solution is washed three times with distilled water (total 450 cc.), dried over anhydrous sodium sulphate, treated with decolourising charcoal (1.0 g.) and evaporated. The partially crystalline residue obtained (13.3 g.) is dissolved in boiling acetonitrile (170 cc.). After cooling for 2 hours at 2°C, the crystals which have appeared are filtered off, washed twice with ice-cold acetonitrile (total 40 cc.) and dried under reduced pressure (20 mm.Hg). 6-(7-Chloroquinol-2-yl)-5-(4-methylpiperazin-1-yl)carbonyloxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole (6.9 g.), melting at 192°C, is thus obtained.

reactant | 6-(7-Chloroquinol-2-yl)-5-hydroxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole | 9.0 g | ClC1=CC=C2C=CC(=NC2=C1)N1C(C2=C(C1O)SCCS2)=O | C15H11ClN2O2S2
reactant | sodium hydride | 1.35 g | [H-].[Na+]
reactant | 1-chlorocarbonyl-4-methylpiperazine | 25.0 g | ClC(=O)N1CCN(CC1)C | C6H11ClN2O
reactant | acetonitrile | 170 cc | C(C)#N | C2H3N
solvent | tetrahydrofuran | 250 cc | O1CCCC1 | C4H8O
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 150 cc | O1CCCC1 | C4H8O
product | 6-(7-Chloroquinol-2-yl)-5-(4-methylpiperazin-1-yl)carbonyloxy-7-oxo-2,3,6,7-tetrahydro-1,4-dithiino[2,3-c]pyrrole | 6.9 g | ClC1=CC=C2C=CC(=NC2=C1)N1C(C2=C(C1OC(=O)N1CCN(CC1)C)SCCS2)=O | C21H21ClN4O3S2
